US05117057
Preparation of N'-(1,1-dimethylethyl)-N,N'-dibenzoylhydrazine
The 1,1-dimethylethylhydrazine oxalate (2 g) was dissolved in toluene and neutralized with 50% aqueous sodium hydroxide. To this solution was added benzoyl chloride (4.02 g) and sodium hydroxide (50% Aq. solution) (2.45 g) at 25° C. The reaction mixture was warmed to room temperature and stirred 3 hours. The mixture was diluted with hexane and filtered to afford the product as a white solid (0.5 g).

reactant | 1,1-dimethylethylhydrazine oxalate | 2 g | C(C(=O)O)(=O)O.CC(C)(C)NN
reactant | benzoyl chloride | 4.02 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | sodium hydroxide | 2.45 g | [OH-].[Na+]
product | N'-(1,1-dimethylethyl)-N,N'-dibenzoylhydrazine | 0.5 g | CC(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C18H20N2O2
